US04435404
Into 50 ml of dimethylformamide were added 1.9 g of 1-benzyl-6-hydroxy-3,4-dihydrocarbostyril, 1.8 g of K2CO3 and 0.5 g of KI. The mixture was heated at 60°-70° C. under stirring, then 3.4 g of N-ethyl-N-(2-tetrahydropyranylmethyl)-5-chloropentanic acid amide was added dropwise gradually thereto. After the addition operation, the reaction mixture was further stirred at the same temperature for 4 hours. Then the solvent was removed by distillation and the residue thus obtained was dissolved in 200 ml of chloroform and the chloroform layer was washed with a diluted hydrochloric acid, 1% NaOH aqueous solution and water in this order, then dried with anhydrous sodium sulfate. The drying agent was removed by filtratoon, and the mother liquor was concentrated, then the residue thus obtained was treated by a silica-gel column chromatography [solvent used was a mixture of chloroform:methanol=20:1 (v/v)]. 0.6 Grams of 1-benzyl-6-{4-[N-(2-tetrahydropyranylmethyl)-N-ethylaminocarbonyl]butoxy}-3,4-dihydrocarbostyril was obtained as in the form of a colorless syrupy substance.

reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | 1-benzyl-6-hydroxy-3,4-dihydrocarbostyril | 1.9 g | C(C1=CC=CC=C1)N1C(=O)CCC2=CC(=CC=C12)O | C16H15NO2
reactant | K2CO3 | 1.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-ethyl-N-(2-tetrahydropyranylmethyl)-5-chloropentanic acid amide | 3.4 g | C(C)N(C(CCCCCl)=O)CC1OCCCC1 | C13H24ClNO2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | 1-benzyl-6-{4-[N-(2-tetrahydropyranylmethyl)-N-ethylaminocarbonyl]butoxy}-3,4-dihydrocarbostyril | C(C1=CC=CC=C1)N1C(=O)CCC2=CC(=CC=C12)OCCCCC(=O)N(CC)CC1OCCCC1 | C29H38N2O4
